US07091214B2
To a stirred solution of N-[2-(3-amino-7-bromoquinolin-4-ylamino)ethyl]methanesulfonamide (46.4 g, 0.129 mol) in 1000 mL pyridine was slowly added valeryl chloride (1.1 equivalents). After 1.5 hours the mixture was yellow and turbid. The reaction mixture was then heated at reflux for 12 hours, allowed to cool to ambient temperature and concentrated under reduced pressure. The residue was mostly dissolved in 10% HCl to adjust to pH 1. The resulting suspension was adjusted to pH 12 with the addition of 50% aqueous sodium hydroxide and stirred overnight. A precipitate formed and was isolated by filtration and air-dried to provide 45 g of N-[2-(7-bromo-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide as a pale gray/green solid.

reactant | N-[2-(3-amino-7-bromoquinolin-4-ylamino)ethyl]methanesulfonamide | 0.129 mol, 46.4 g | NC=1C=NC2=CC(=CC=C2C1NCCNS(=O)(=O)C)Br | C12H15BrN4O2S
reactant | valeryl chloride | 1.1 equivalents | C(CCCC)(=O)Cl | C5H9ClO
solvent | pyridine | 1000 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-(7-bromo-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide | 45 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCNS(=O)(=O)C)CCCC | C17H21BrN4O2S
